US03971772
d. 2-Phenyl-2-(1-ethoxycarbonylaminoethyl)-dioxolane
A solution of 2-(1-aminoethyl)-2-phenyldioxolane (20 mmoles), triethylamine (24 mmoles), and ethyl chloroformate (22 (mmoles) in 100 ml of dichloromethane is stirred at 0°C for 2 hours, washed with water, dried, and evaporated to give the title compound.

reactant | 2-(1-aminoethyl)-2-phenyldioxolane | 20 mmoles | NC(C)C1(OCCO1)C1=CC=CC=C1 | C11H15NO2
reactant | triethylamine | 24 mmoles | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Phenyl-2-(1-ethoxycarbonylaminoethyl)-dioxolane | C1(=CC=CC=C1)C1(OCCO1)C(C)NC(=O)OCC | C14H19NO4
